US07135466B2
N-(1-Benzyl-4-piperidyl)-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (100 mg) was dissolved in chloroform (10 ml) and triethylamine (1 ml) to prepare a solution. A solution of triphosgene (151 mg) in chloroform was then added to the solution, and the mixture was stirred at room temperature for 10 min. Next, 1-benzyl-4-piperidineamine (97 mg) was added thereto, and the mixture was further stirred at room temperature for one hr. Water was added to stop the reaction, and the reaction solution was then extracted with chloroform, followed by concentration. The residue was purified on a column using chloroform/methanol to give the title compound (142 mg, yield 81%).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 100 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 151 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-benzyl-4-piperidineamine | 97 mg | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | N-(1-Benzyl-4-piperidyl)-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}urea | 142 mg, yield 81% | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)NC1=CC=C(C=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C29H31N5O4
